US05739129
N-Isopropyl-N-(4-methoxy-phenyl)-2-phenylamino acetamide
A mixture of N-Isopropyl-N-(4-methoxy-phenyl)bromoacetamide (257.6 g 924 mmol), 1,2-phenylene diamine (100 g, 924 mmol) and potassium carbonate (128 g, 924 mmol) in DMF (1200 ml) was stirred at 0° for 2 h and then allowed to stir at rt for 20 h. The reaction mixture was filtered through celite and the filtrate concentrated in vacuo The resultant residue was dissolved in EtOAc (1200 ml), washed with water (3×200 ml), brine (200 ml), dried (MgSO4) and concentrated in vacuo. After removal of about 70% of the solvent a precipitate formed which was removed by filtration and washed with cold EtOAc and dried to afford the title compound (67.1 g) as a beige solid. The combined filtrates were concentrated in vacuo to afford a dark oil (88 g). Two Recrystallisations from ethanol afforded a second batch of the title compound as a beige solid (29.6 g).1H NMR (300 MHz, DMSO-d6). s 7.22 (m, 2H), 7.05(m, 2H), 6.47 (m, 1H), 6.34 (m, 2H), 5.95 (m, 1H), 4.81 (sept., 1H, J=6.8 ), 4.59 (dt, 1H, J=27.2, 6.1), 4.4 (s, 2H), 3.77 (s, 3H), 3.30 (s, 2H), 0.96 (d, 6H, J =6.8).

reactant | N-Isopropyl-N-(4-methoxy-phenyl)bromoacetamide | 924 mmol, 257.6 g | C(C)(C)N(C(CBr)=O)C1=CC=C(C=C1)OC | C12H16BrNO2
reactant | 1,2-phenylene diamine | 924 mmol, 100 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | potassium carbonate | 924 mmol, 128 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1200 ml | CN(C)C=O | C3H7NO
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-phenylamino acetamide | 67.1 g | C(C)(C)N(C(CNC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C18H22N2O2
